US06262292B1
20 kg of p-cyanobenzylamine crude product (p-cyanobenzylamine 92% by weight, p-xylylenediamine 8% by weight) obtained by hydrogen reduction of terephthalonitrile in the presence of sponge metal nickel catalyst was mixed with 90 kg of water while stirring at 40° C. or less and the mixture was stirred for 3 hours. The crystals which precipitated were separated by centrifugation while washing with water to obtain 20 kg of p-cyanobenzylamine hydrate (water content: 22% by weight). 20 kg of the p-cyanobenzylamine hydrate, 17.6 kg of hexamethylenetetramine, and 83 kg of acetic acid were mixed and the internal temperature was elevated to 80° C. while stirring. An aqueous sulfuric acid solution of 12.6 kg of 98% by weight sulfuric acid and 9.3kg of water was added dropwise thereto over 20 minutes. Further, the reaction mixture was stirred at 100° C. for 1 hour. After the internal temperature was decreased to 50° C., 12.6 kg of 98% by weight sulfuric acid was added. The reaction mixture was concentrated under reduced pressure to recover 75 kg of acetic acid solution. Totheresidue inthereaction vesselwas added 60 kg of water and 70 kg of toluene and stirred vigorously and thereafter left to stand. After removing the water layer, 20 kg of water was added, followed by vigorous stirring and left to stand to remove water (this operation being performed twice). The toluene was concentrated under reduced pressure to recover 48 kg of toluene. After reverting to atmospheric pressure, 54 kg of water was added and the mixture was concentrated until the distillation temperature reached a constant value (distillation of toluene was completed) to recover 21 kg of toluene and 6 kg of water. The mixture was cooled to room temperature while stirring (the mixture became an aqueous solution from which p-cyanobenzaldehyde had precipitated). 12.0 kg of acetonitrile and 8.0 kg of sodium hydrogen carbonate were mixed therewith and 125 kg of an aqueous 13.5% by weight sodium hypochlorite solution was added dropwise over 2 hours while maintaining the internal temperature of the reaction system at around 40° C. (±5° C.), and the mixture was stirred for additional 1 hour. Then, 2.1 kg of urea was added and stirred for 20 minutes and further 7.5 kg of 98% by weight sulfuric acid and 190 kg of water were added. The precipitated crystals were collected by centrifugation while washing with water, and dried to obtain 16.5 kg (yield: 94%) of p-cyanobenzoic acid. The purity was 99% or more.

reactant | p-cyanobenzylamine hydrate | 20 kg | O.C(#N)C1=CC=C(CN)C=C1
reactant | hexamethylenetetramine | 17.6 kg | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | acetic acid | 83 kg | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | 9.3kg | O | H2O
product | p-cyanobenzoic acid | 16.5 kg, yield: 94% | C(#N)C1=CC=C(C(=O)O)C=C1 | C8H5NO2
